US07763657B2
Step 1: 3-(4-tert-Butylphenyl)-2-methylpropionic acid
3-(4-tert-butylphenyl)-2-methylacrylic acid (40.9 mg, 0.19 mmol) and 10 wt. % palladium on activated carbon were added in methanol. The reaction mixture was stirred for 5 hrs under H2 gas. The reaction mixture was filtered with Celite. The filterate was concentrated in vacuo to obtain title compound (39.1 mg, 93.47%).

reactant | 3-(4-tert-butylphenyl)-2-methylacrylic acid | 0.19 mmol, 40.9 mg | C(C)(C)(C)C1=CC=C(C=C1)C=C(C(=O)O)C | C14H18O2
catalyst | palladium on activated carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-(4-tert-Butylphenyl)-2-methylpropionic acid | 39.1 mg, 93.47% | C(C)(C)(C)C1=CC=C(C=C1)CC(C(=O)O)C | C14H20O2
